US04510149
1,2,3,4-tetrahydro-2-(1-imidazolyl)-7-methoxy-naphthalene hydrochloride which treated with the stoichiometric amount of NaHCO3 gave 1,2,3,4-tetrahydro-2-(1-imidazolyl)-7-methoxy-naphthalene.

reactant | 1,2,3,4-tetrahydro-2-(1-imidazolyl)-7-methoxy-naphthalene hydrochloride | Cl.N1(C=NC=C1)C1CC2=CC(=CC=C2CC1)OC
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 1,2,3,4-tetrahydro-2-(1-imidazolyl)-7-methoxy-naphthalene | N1(C=NC=C1)C1CC2=CC(=CC=C2CC1)OC | C14H16N2O
